US07645771B2
2-Chloro-N-isobutyryl-5-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzene-sulfonamide (19 mg, 80%) was obtained as amorphous solid from 2-chloro-5-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzenesulfonamide and isobutyryl chloride following the procedure outlined in example 476. 1H NMR (300 MHz, DMSO-d6, 100° C.) δ 7.85-7.76 (m, 2H), 7.60-7.50 (m, 2H), 7.42-7.28 (m, 5H), 7.26 (m, 1H), 7.18-7.12 (m, 2H), 4.76 (br, 1H), 3.36-3.08 (m, 7H), 2.53-2.27 (m, 7H), 2.04-1.82 (m, 10H), 1.69 (d, J=7.6 Hz, 2H), 0.95 (d, J=6.6 Hz, 6H). HRMS m/z (M+H)+ calcd: 716.3037, obsd: 716.3013.

reactant | 2-chloro-5-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzenesulfonamide | ClC1=C(C=C(C=C1)C(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)S(=O)(=O)N | C35H40ClN5O3S
reactant | isobutyryl chloride | C(C(C)C)(=O)Cl | C4H7ClO
product | 2-Chloro-N-isobutyryl-5-[(4-{2-[3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}-4-phenylpiperidin-1-yl)carbonyl]benzene-sulfonamide | 19 mg, 80% | ClC1=C(C=C(C=C1)C(=O)N1CCC(CC1)(C1=CC=CC=C1)CCN1C2CC(CC1CC2)N2C(=NC1=C2C=CC=C1)C)S(=O)(=O)NC(C(C)C)=O | C39H46ClN5O4S
